US07781426B2
To a solution of (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](propyl)amino]methyl}cyclohexyl)acetic acid (8.8 mg, 0.0126 mmol) in THF (1 mL) was added a 1 M solution of BH3 in THF (75 μL, 0.075 mmol). The reaction was stirred at room temperature for 2 hours and then quenched with water (5 mL), diluted with EtOAc (15 mL), and washed with brine (5 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (10 to 50% EtOAc/hexanes) afforded (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-[{[trans-4-(2-hydroxyethyl)cyclohexyl]methyl}(propyl)amino]-5-(trifluoromethoxy)benzyl]-4-methyl-1,3-oxazolidin-2-one. Rf=0.09 (25% EtOAc/hexanes). LCMS=685.3 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.89 (s, 1H), 7.78 (s, 2H), 7.16 (d, J=8.9 Hz, 2H), 7.10 (d, J=8.8 Hz, 1H), 5.74 (d, J=8.0 Hz, 1H), 4.72 (d, J=16.4 Hz, 1H), 4.58 (d, J=16.4 Hz, 1H), 4.02-3.98 (m, 1H), 3.66-3.64 (m, 2H), 2.77-2.73 (m, 4H), 1.77-0.81 (m, 17H), 0.64 (d, J=6.6 Hz, 3H).

reactant | (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethoxy)phenyl](propyl)amino]methyl}cyclohexyl)acetic acid | 0.0126 mmol, 8.8 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)N(CCC)C[C@@H]1CC[C@H](CC1)CC(=O)O)C)(F)F | C32H35F9N2O5
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.075 mmol, 75 μL | C1CCOC1 | C4H8O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-[{[trans-4-(2-hydroxyethyl)cyclohexyl]methyl}(propyl)amino]-5-(trifluoromethoxy)benzyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)N(CCC)C[C@@H]1CC[C@H](CC1)CCO)C)(F)F | C32H37F9N2O4
